US06022906
21a 2-Benzyl-2-dimethylamino-1-[4-(3-hydroxy-propoxy)-3-methoxy-phenyl]-butan-1-one
0.40 mol of sodium hydride are suspended in 500 ml of dry dimethylacetamide and 72.3 ml (1.0 mol) of 1,3-propanediol are added dropwise at 0° C. Then 68.3 g (0.20 mol) of 2-benzyl-1-(3,4-dimethoxy-phenyl)-2-dimethylamino-butan-1-one in dimethylacetamide are added dropwise at 0° C. After the solution is stirred at 120° C. for 18 h, the solution is poured into water. The crude product is extracted with ethyl acetate, washed with water, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with ethyl acetate-hexane (40:60) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 0.69 (t, 3H), 1.83-1.92 (m, 1H), 2.04-2.16 (m, 3H), 2.38 (s, 6H), 2.40-2.55 (bs, 1H), 3.18-3.23 (m, 2H), 3.88 (s, 3H), 3.89 (t, 2H), 4.27 (t, 2H), 6.84 (d, 1H), 7.15-7.28 (m, 5H), 7.93 (d, 1H), 8.20 (dd, 1H).

reactant | sodium hydride | 0.40 mol | [H-].[Na+]
reactant | 1,3-propanediol | 1.0 mol, 72.3 ml | C(CCO)O | C3H8O2
reactant | 2-benzyl-1-(3,4-dimethoxy-phenyl)-2-dimethylamino-butan-1-one | 0.20 mol, 68.3 g | C(C1=CC=CC=C1)C(C(=O)C1=CC(=C(C=C1)OC)OC)(CC)N(C)C | C21H27NO3
reactant | water | O | H2O
solvent | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
product | 2-Benzyl-2-dimethylamino-1-[4-(3-hydroxy-propoxy)-3-methoxy-phenyl]-butan-1-one | C(C1=CC=CC=C1)C(C(=O)C1=CC(=C(C=C1)OCCCO)OC)(CC)N(C)C | C23H31NO4
